US06969717B2
The intermediate, 4-fluoro-1H-pyrrolo[2,3-b]pyridin-5-ol, was prepared as follows. A. The procedure described in J. Org. Chem., 2000, 65, 1158-1174 was followed. A 350-mL oven-dried flask capped with a rubber septum was evacuated and filled with argon. The flask was charged with 4-chloro-1H-pyrrolo[2,3-b]pyridine [20 g, 131 mmol, for preparation see Benoît, S.; Gingras, S. Processes for the preparation of antiviral 7-azaindole derivatives. U.S. Provisional Patent 60/367,401, 2003], sodium tert-butoxide (35.2 g, 367 mmol), Pd(OAc)2 (589 mg, 2.62 mmol), (o-biphenyl)PCy2 (1.83 g, 5.24 mmol) and evacuated and filled with argon. 1,4-dioxane (0.25 L) and N-allylamine (29 mL, 393 mmol) was added and argon was bubbled through the mixture for 20 minutes. The septum was replaced with a Teflon® screwcap, the flask was sealed and the mixture was heated at 100° C. for 16 h. The mixture was cooled to room temperature, diluted with ether (0.5 L), filtered through Celite® and concentrated in vacuo. The resulting oil was dissolved in dichloromethane (0.25 L), washed twice with water, dried, filtered and concentrated in vacuo to give allyl-(1H-pyrrolo[2,3-b]pyridin-4-yl)-amine as a brown gum. 1H NMR (400 MHz, DMSO-d6) δ 11.10 (1H, br. s), 7.78 (1H, d, J=5.3Hz), 7.03 (1H, s), 6.73 (1H, t, J=5.8 Hz), 6.53 (1H, d, J=2.5 Hz), 6.04 (1H, t, J=5.5 Hz), 5.96-5.87 (1H, m), 5.22 (1H, ddd, J=1.8, 3.4, 17.2 Hz), 5.11 (1H, ddd, J=0.7, 1.8, 10.4 Hz), 3.86 (2H, m). LC/MS: m/z 174 (M+H)+. B. The procedure described in Tetrahedron Letters, 1998, 39, 1313-1316, was employed. A 0.5 L oven-dried round-bottom flask equipped with a condenser was evacuated and filled with argon. The flask was charged with allyl-(1H-pyrrolo[2,3-b]pyridin-4-yl)-amine (22.69 g, 131 mmol), ethanol (262 mL), 10% palladium on carbon (15 g) and methanesulfonic acid (8.5 mL, 131 mmol). The mixture was heated at 105° C. for 72 h. The mixture was cooled to room temperature, filtered through Celite and concentrated in vacuo. The resulting oil was purified by SCX-silica column (300 g), by eluting methanol (3×500 mL) followed by a solution of 2M ammonia in methanol (3×500 mL) to give 1H-pyrrolo[2,3-b]pyridin-4-ylamine (13.15 g, 75% over two steps) as a light yellow oil. 1H NMR (400 MHz, DMSO-d6) δ 11.02 (1H, br. s), 7.69 (1H, d, J=5.3 Hz), 7.01 (1H, d, J=3.3 Hz), 6.46 (1H, d, J=3.3 Hz), 6.10 (1H, d, J=5.3 Hz), 6.07 (2H, s). LC/MS m/z 134 (M+H)+. C. 1H-Pyrrolo[2,3-b]pyridin-4-ylamine (10.3 g, 77 mmol) was dissolved in a 48% wt. solution of tetrafluoroboric acid in water (155 mL). The mixture was cooled to 0° C. and sodium nitrite (5.87 g, 85.1 mmol) in water (15 mL) was added dropwise. The mixture was allowed to reach RT and stirred for 22 h. Ethyl acetate was added (500 mL), the mixture was cooled to 0° C., neutralized with solid sodium hydrogen carbonate and the layers were separated. The aqueous layer was extracted with ethyl acetate (2×300 mL), the organic layers were combined and concentrated in vacuo. The resulting solid was triturated with 250 mL of ethyl acetate, filtered and the filtrate was washed with a solution of 1N sodium hydroxide (2×200 mL). The organic layer was dried, filtered and concentrated in vacuo to give 4-fluoro-1H-pyrrolo[2,3-b]pyridine (4.67 g, 44%) as a brown solid. 1H NMR (400 MHz, DMSO-d6) δ 12.00 (1H, br. s), 8.20 (1H, dd, J=5.3, 8.4 Hz), 7.51 (1H, t, J=3.1 Hz), 6.94 (1H, dd, J=5.3, 10.4 Hz), 6.51 (1H, dd, J=2.1, 3.6 Hz), 6.07 (2H, s). LCMS: m/z 134 (M+H)+. D. 4-Fluoro-1H-pyrrolo[2,3-b]pyridine (2 g, 14.7 mmol) was dissolved in THF (50 mL) and sodium hydride (60% in oil, 881 mg, 22.0 mmol) was added in small portions. After 30 minutes, chlorotriisopropylsilane (4.71 mL, 22.0 mmol) was added and stirred at 65° C. for 16 h. Ethyl acetate was added (100 mL), the mixture was cooled at 0° C., neutralized with a solution of saturated ammonium chloride and the layers were separated. The aqueous layer was extracted twice with ethyl acetate (2×100 mL) and the organic layers were combined, washed with water (150 mL), brine (150 mL), dried, and concentrated in vacuo. The crude material was purified by flash chromatography eluting with 1% ethyl acetate in hexane to give 4-fluoro-1-triisopropylsilanyl-1H-pyrrolo[2,3-b]pyridine (2.16 g, 50%) as a colorless oil. 1H NMR (400 MHz, DMSO-d6) δ 8.22 (1H, dd, J=5.6, 8.3 Hz), 7.51 (1H, d, J=3.6 Hz), 6.98 (1H, dd, J=4.1, 10.1 Hz), 6.69 (1H, d, J=3.5 Hz), 1.86 (3H, m), 1.06 (9H, s), 1.04 (9H, s). LC/MS: m/z 293 (M+H)+. E. The procedure described in J. Med. Chem., 1997, 40, 2674 was modified. 4-Fluoro-1-triisopropylsilanyl-1H-pyrrolo[2,3-b]pyridine (213 mg, 0.73 mmol) was dissolved in THF (4.9 mL) and the mixture was cooled to −78° C. Sec-Butyllithium solution (1.10 M in THF, 1.46 mL, 1.61 mmol) was added dropwise and after 30 minutes, (R)-camphorsulfonyl oxaziridine (418 mg, 1.82 mmol) in tetrahydrofuran (2.5 mL) was added rapidly. After 25 min, a solution of saturated ammonium chloride was added and the mixture was allowed to reach RT. The solution was extracted with ethyl acetate (3×15 mL) and the combined organic layers were washed with water (30 mL), brine (30 mL), dried, and concentrated in vacuo. The crude material was purified by flash chromatography eluting a mixture of 5% ethyl acetate in toluene to give the desired product. LC/MS: m/z 309 (M+H)+. F. 4-Fluoro-1-triisopropylsilanyl-1H-pyrrolo[2,3-b]pyridin-5-ol (207 mg, 0.67 mmol), THF (3.4 mL) and a solution of tetrabutylammonium fluoride (1.0 M in THF, 1.01 mL, 1.01 mmol) were added and the mixture was stirred for 90 min. A solution of saturated ammonium chloride was added and the mixture was extracted with ethyl acetate (3×15 mL), the combined organic layers were washed with water (30 mL), brine (30 mL), dried, and concentrated in vacuo. The crude material was purified by flash chromatography eluting a mixture of 1% NH4OH: 7% methanol: 92% dichloromethane to afford 4-fluoro-1H-pyrrolo[2,3-b]pyridin-5-ol (60 mg, 59%) as a light yellow solid. 1H NMR (400 MHz, DMSO-d6) δ 11.62 (1H, s), 9.34 (1H, s), 7.95 (1H, d, J=10.3 Hz), 7.39 (1H, d, J=2.8 Hz), 6.38 (1H, dd, J=2.0, 3.2 Hz). LC/MS: m/z 153 (M+H)+.

reactant | 4-fluoro-1H-pyrrolo[2,3-b]pyridin-5-ol | FC1=C2C(=NC=C1O)NC=C2 | C7H5FN2O
reactant | 7-azaindole | N1C=CC2=CC=CN=C12 | C7H6N2
reactant | sodium tert-butoxide | 367 mmol, 35.2 g | CC(C)([O-])C.[Na+]
reactant | N-allylamine | 393 mmol, 29 mL | C(C=C)N | C3H7N
catalyst | Pd(OAc)2 | 2.62 mmol, 589 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
solvent | 1,4-dioxane | 0.25 L | O1CCOCC1 | C4H8O2
product | allyl-(1H-pyrrolo[2,3-b]pyridin-4-yl)-amine | C(C=C)NC1=C2C(=NC=C1)NC=C2 | C10H11N3
